US07691877B2
(2,6-Dibromo-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester
A solution of ethyl chloroformate (5.96 g) in anhydrous 2-methyl THF (50 ml) was added drop-wise to a solution of 2,6-dibromo-3-nitro-pyridin-4-ylamine (15.00 g) and triethylamine (10.1 g) in anhydrous 2-methyl THF (100 ml) at 0° C., keeping the addition rate such that the reaction temperature did not rise above 5° C. The reaction mixture was allowed to warm to room temperature then left to stir under nitrogen for 1 hour. A further portion of ethyl chloroformate (0.54 g) was added and the mixture was left to stir for a further 1 hour. Water (50 ml) was added and the layers separated. The aqueous layer was extracted with EtOAc (50 ml) and the combined organics were dried (MgSO4) and evaporated to a brown solid. This solid was pre-absorbed onto silica (˜19 g) then columned on Isco Companion on a silica column (330 g, Redisep), eluting with EtOAc:heptane. The gradient was kept isocractic at 10:90 for 1 column volume (CV), then increased linearly from 10:90 to 30:70 over 6 CVs. This provided the title compound (12.6 g) as a pale yellow foamy solid.

reactant | ethyl chloroformate | 5.96 g | ClC(=O)OCC | C3H5ClO2
reactant | 2,6-dibromo-3-nitro-pyridin-4-ylamine | 15.00 g | BrC1=NC(=CC(=C1[N+](=O)[O-])N)Br | C5H3Br2N3O2
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.54 g | ClC(=O)OCC | C3H5ClO2
solvent | Water | 50 ml | O | H2O
product | (2,6-Dibromo-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester | 12.6 g | C(C)OC(NC1=C(C(=NC(=C1)Br)Br)[N+](=O)[O-])=O | C8H7Br2N3O4
